US06083908
To a solution of N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester (0.14 g, 0.25 mmol) in methylene chloride (2 ml) at 0° C. was added trifluoroacetic acid (2 ml) and the mixture was stirred for 90 min. Then methylene chloride (50 ml) and saturated sodium bicarbonate (5 ml) was added and the mixture was titrated with solid sodium bicarbonate until pH=7. The water layer was separated and extracted with methylene chloride (20 ml) and the combined organic layers were washed with brine (10 ml), dried (MgSO4), filtered and concentrated in vacuo to give 0.10 g (87%) of (2R)-N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide as an oil.

reactant | N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 0.25 mmol, 0.14 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N(NC(C)=O)C)CC1=CC=CC=C1)=O)=O | C32H40N4O5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (2R)-N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.10 g, 87% | C(C)(=O)NN(C)C([C@@H](CC1=CC=CC=C1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C)=O | C27H32N4O3
